US05994342
(3RS,5RS)-3-[N-(4-Pentenoyl)aminomethyl]-4-oxa-1-azabicyclo[3.2.0]heptan-7-one (19)
600 mg of (3RS,5RS)-3-Azidomethyl-4-oxa-1-azabicyclo[3.2.0]heptan-7-one was hydrogenated with 1.0 g of 10% Palladium on activated carbon in Ethyl acetate at 50 psi for 1 hr. After removal of catalyst by filtration, 360 mg (3.6 mmol) of 4-Pentenoic acid and 300 mg (1.8 mmol) of 1,3-Dicyclohexyl carbodiimide were added under ice-cooling. The reaction mixture was then stirred at room temperature for 2 hrs. Resulted solid was filtered off and the filtrate was concentrated in vacuo. The residue was purified by flash silicagel column using Hexane-Ethyl acetate (1:1) as eluent and the title compound was obtained as oil.

reactant | (3RS,5RS)-3-Azidomethyl-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | 600 mg | N(=[N+]=[N-])CC1CN2C(CC2O1)=O | C6H8N4O2
reactant | 4-Pentenoic acid | 3.6 mmol, 360 mg | C(CCC=C)(=O)O | C5H8O2
reactant | 1,3-Dicyclohexyl carbodiimide | 1.8 mmol, 300 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | Palladium on activated carbon | 1.0 g | [Pd] | Pd
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3RS,5RS)-3-[N-(4-Pentenoyl)aminomethyl]-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | Yield:15% | C(CCC=C)(=O)NCC1CN2C(CC2O1)=O | C11H16N2O3
